US09340549B2
To a microwave vial were added (S)-5,5-dimethyl-4-phenyloxazolidin-2-one (1 g, 5.23 mmol), 2-chloro-4-iodopyridine (1.878 g, 7.84 mmol) (commercially available from Frontier Scientific, Inc., Logan Utah), and dioxane (10.46 mL). Tribasic potassium phosphate (5.55 g, 26.1 mmol) and copper (I) iodide (0.996 g, 5.23 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) were then added to the vial. The vessel was purged with argon and then N,N′-dimethylethylenediamine (1.126 mL, 10.46 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) was added. The vessel was then irradiated at 140° C. for 40 minutes, and LC-MS indicated complete conversion to the desired product. After cooling to room temperature, the reaction mixture was passed through a syringe filtered, and the material thus obtained was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 10% MeOH in DCM, to provide (S)-3-(2-chloropyridin-4-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one. m/z (ESI) 303.3 (M+H)+.

reactant | (S)-5,5-dimethyl-4-phenyloxazolidin-2-one | 5.23 mmol, 1 g | CC1([C@@H](NC(O1)=O)C1=CC=CC=C1)C | C11H13NO2
reactant | 2-chloro-4-iodopyridine | 7.84 mmol, 1.878 g | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | potassium phosphate | 26.1 mmol, 5.55 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper (I) iodide | [Cu]I
solvent | dioxane | 10.46 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(2-chloropyridin-4-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one | ClC1=NC=CC(=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C16H15ClN2O2
